US07547710B2
A mixture of tert-butyl (6-bromo-2-isobutyl-4-phenylquinolin-3-yl)methylcarbamate (0.79 g, 1.7 mmol), 1,1′-bis(diphenylphosphino)ferrocene (0.047 g, 0.084 mmol), palladium acetate (0.019 g, 0.084 mmol), triethylamine (0.26 ml, 1.9 mmol), methanol (10 ml) and tetrahydrofuran (10 ml) was stirred in a sealed tube under a 0.5 MPa carbon monoxide atmosphere at 110° C. for 3 hrs. The reaction mixture was cooled and added to a mixture of ethyl acetate (50 ml) and water (50 ml), and insoluble materials were filtered off. The organic layer was separated, washed with saturated brine (20 ml) and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography and crystallized from diisopropyl ether-ethyl acetate to give methyl 3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-phenylquinoline-6-carboxylate (0.71 g, yield 95%) as colorless crystals.

reactant | tert-butyl (6-bromo-2-isobutyl-4-phenylquinolin-3-yl)methylcarbamate | 1.7 mmol, 0.79 g | BrC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C25H29BrN2O2
reactant | triethylamine | 1.9 mmol, 0.26 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 10 ml | CO | CH4O
reactant | carbon monoxide | [C]=O | CO
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.084 mmol, 0.047 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium acetate | 0.084 mmol, 0.019 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | methyl 3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-phenylquinoline-6-carboxylate | 0.71 g, yield 95% | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=CC=C1)C(=O)OC)CC(C)C | C27H32N2O4
